US07470420B2
N-[3,3′]BIPYRIDINYL-5-YLMETHYL-2METHYL-ACRYLAMIDE
To a cooled solution of C-[3,3′]Bipyridinyl-5-yl-methylamine (1.16 g, 6.2 mmol) in dichloromethane (100 mL) was added methacryloyl chloride dropwise. After stirring for 7 h at ambient temperature, the reaction was quenched with 1M NaOH, and extracted with dichloromethane (2×100 mL). The combined organics were washed with sat. NaHCO3, brine, dried with Na2SO4, and evaporated to a yellow oil (1.65 g) which was chromatographed en silica gel (pretreated with 10% triethylamine) using a methanol gradient (0-3%) in dichloromethane to give 0.76 g of clear oil.

reactant | C-[3,3′]Bipyridinyl-5-yl-methylamine | 6.2 mmol, 1.16 g | N1=CC(=CC(=C1)CN)C=1C=NC=CC1 | C11H11N3
reactant | methacryloyl chloride | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-[3,3′]BIPYRIDINYL-5-YLMETHYL-2METHYL-ACRYLAMIDE | 0.76 g | N1=CC(=CC(=C1)CNC(C(=C)C)=O)C=1C=NC=CC1 | C15H15N3O
